US04136256
Preparation of 4-(14-methylpentadecyl)aminobenzoic acid
A 4 g. sample of ethyl 4-(14-methylpentadecyl)aminobenzoate is hydrolized with 2.0 g. of 85% potassium hydroxide in 60 ml. 95% ethanol by refluxing the solution for 5 hours. The solution is cooled, diluted with 100 ml. water, and acidified to pH 4.5 with 37% hydrochloric acid. The precipitate is collected and dried in vacuo to yield the title compound as a white powder.

reactant | ethyl 4-(14-methylpentadecyl)aminobenzoate | CC(CCCCCCCCCCCCCNC1=CC=C(C(=O)OCC)C=C1)C | C25H43NO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-(14-methylpentadecyl)aminobenzoic acid | CC(CCCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1)C | C23H39NO2
